US04438045
III-A. The Preparation of Dimethylaminoethyl Hydrogen Succinate
In a two liter four neck flask equipped with stirrer, thermometer, condenser and addition funnel were charged succinic anhydride (200 g) and tetrahydrofuran (1400 ml). A homogeneous solution of succinic anhydride in tetrahydrofuran was made when the pot temperature reached 50° C. with external heating. Dimethylaminoethanol (178 g) was added at a rate that the exothermic reaction kept the pot temperature at 55° C. to 60° C. The reaction mixture was digested at 50° C. for a period of two hours after the addition of dimethylaminoethanol was completed. A first crop of crystalline product was collected by filtration and a second crop of product was collected from the mother liquor after concentration to 250 ml by means of reduced pressure distillation. These products were combined and dried in a vacuum over at 40° C. and 3 mm Hg pressure. The total yield was 303 g, 80% of the theoretical yield.

reactant | succinic anhydride | 200 g | C1(CCC(=O)O1)=O | C4H4O3
reactant | Dimethylaminoethanol | 178 g | CN(C)CCO | C4H11NO
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1400 ml | O1CCCC1 | C4H8O
product | Dimethylaminoethyl Hydrogen Succinate | C(CCC(=O)O)(=O)OCCN(C)C | C8H15NO4
